US09315521B2
Lithium aluminum hydride (410 mg, 10.8 mmol) was stirred in anhydrous THF (45 mL). A solution of ethyl 2,4-diethylpyridine-3-carboxylate (1.50 g, 7.2 mmol) in anhydrous THF (10 mL) was added at 0° C., and then stirred at room temperature for 2 hours. The reaction was quenched with an aqueous solution of sodium hydroxide and extracted 5 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, (2,4-diethylpyridin-3-yl)methanol was obtained as an oil (1.17 g, 98% yield) and used in the next step without further purification.

reactant | Lithium aluminum hydride | 10.8 mmol, 410 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2,4-diethylpyridine-3-carboxylate | 7.2 mmol, 1.50 g | C(C)C1=NC=CC(=C1C(=O)OCC)CC | C12H17NO2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,4-diethylpyridin-3-yl)methanol | C(C)C1=NC=CC(=C1CO)CC | C10H15NO
